US04853469
Preparation of diethyl [(2,3,4-trifluoroanilino)(3-acetoxy-2-oxopropylthio)methylene]malonate [compound (IX) in which R4 is ethyl]
Diethyl [(2,3,4-trifluoroanilino)(mercapto)methylene]malonate sodium salt (5.3 g) was dissolved in N,N-dimethylformamide (70 ml) and thereto 1-acetoxy-3-chloroacetone (2.2 g) was added and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was filtered to remove insoluble materials. After the filtrate was evaporated to dryness under reduced pressure, water was added to the residue and the mixture was extracted with chloroform. The extract was washed with a NaCl solution and dried over anhydrous magnesium sulfate, followed by distilling off the solvent under reduced pressure to give the title compound (6.0 g) as pale yellow oil.

reactant | Diethyl [(2,3,4-trifluoroanilino)(mercapto)methylene]malonate sodium salt | 5.3 g | [Na].FC1=C(NC(S)=C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F
reactant | 1-acetoxy-3-chloroacetone | 2.2 g | C(C)(=O)OCC(=O)CCl | C5H7ClO3
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | diethyl [(2,3,4-trifluoroanilino)(3-acetoxy-2-oxopropylthio)methylene]malonate | 6.0 g | FC1=C(NC(SCC(COC(C)=O)=O)=C(C(=O)OCC)C(=O)OCC)C=CC(=C1F)F | C19H20F3NO7S
